US09024027B2
To a solution of benzyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (0.700 g, 1.802 mmol) in acetonitrile (20 ml), K2CO3 (0.498 g, 3.605 mmol) and 2-bromoethanol (0.509 ml, 7.21 mmol) were further added. The mixture was heated under MW irradiation at 110° C. for 2 hours. 2-Bromoethanol (0.272 ml, 3.734 mmol) and K2CO3 (0.268 g, 1.931 mmol) were added, and the reaction was heated under MW irradiation at 110° C. for additional 3 hours. The mixture was then diluted with acetonitrile, the insoluble inorganic salts were filtered off and the filtrate was evaporated to dryness. The crude was purified by trituration with Et2O affording benzyl 2-(5-(N-(2-hydroxyethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (0.746 g, 1.725 mmol, 96% yield, MS/ESI+ 432.9 [MH]+).

reactant | benzyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 1.802 mmol, 0.700 g | CS(=O)(=O)NC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OCC1=CC=CC=C1)=O | C18H16N2O6S
reactant | K2CO3 | 3.605 mmol, 0.498 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoethanol | 7.21 mmol, 0.509 ml | BrCCO | C2H5BrO
reactant | 2-Bromoethanol | 3.734 mmol, 0.272 ml | BrCCO | C2H5BrO
reactant | K2CO3 | 1.931 mmol, 0.268 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | benzyl 2-(5-(N-(2-hydroxyethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 1.725 mmol, 0.746 g, 96% yield | OCCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)OCC1=CC=CC=C1)=O | C20H20N2O7S
